* CL05A225KP5NSN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-11-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 2.2uF
*     Capacitance Tolerance = +/-10%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.07mm
*     Width = 0.50+/-0.07mm
*     Thickness = 0.50+/-0.07mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 5.5V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05A225KP5NSN_Precise_DC5.5V_25degC 1 2
C1 1 3 5.43776E-7
C2 3 4 2.83563E-5
C3 4 5 3.09838E-5
C4 5 6 3.23173E-5
C5 6 7 3.43640E-5
C6 7 8 2.77739E-5
C7 8 9 9.56872E-6
C8 9 10 1.0E-10
C16 17 18 1.57898E-4
C17 18 19 2.21787E-5
C18 19 20 1.85565E-5
C19 20 21 2.14543E-5
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 3.46478E-5
C23 24 25 5.50937E-6
C24 25 26 7.67914E-7
C25 26 27 2.53303E-4
C26 27 28 1.85424E-11
C27 28 2 2.53303E-4
L10 11 12 8.04395E-11
L11 12 13 1.58321E-10
L12 13 14 3.93264E-11
L13 14 15 2.77986E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 3.70820E-11
L17 18 19 7.29773E-11
L18 19 20 3.25793E-11
L19 20 21 1.91531E-11
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 0.00666
L23 24 25 1.07837E-11
L24 25 26 4.63849E-11
L25 26 27 1.0E-10
L26 27 28 2.12358E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 177.65715
R3 4 5 26.72598
R4 5 6 0.61983
R5 6 7 0.09254
R6 7 8 0.01586
R7 8 9 0.00458
R8 9 10 1.0E-6
R9 10 11 0.00377
R11 12 13 0.03982
R12 13 14 0.13397
R13 14 15 0.34659
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 0.00618
R17 18 19 0.01942
R18 19 20 0.00228
R19 20 21 0.00134
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 3.36833
R23 24 25 0.00423
R24 25 26 0.00923
R25 26 27 1.0E-6
R26 27 28 2.32884
R27 28 2 1.0E-6
.ENDS CL05A225KP5NSN_Precise_DC5.5V_25degC